US07652022B2
4-(6-Trifluoromethyl-pyrimidin-4-yloxy)-phenylamine
4-Amino-phenol (1.2 g, 10.9 mmol) is added in one portion to a suspension of NaH (60% free-flowing powder moistened with oil, 0.48 g, 12.0 mmol, 1.1 equiv) in dioxane abs. (18 mL), under an argon atmosphere. When hydrogen evolution subsides, a solution of 4-chloro-6-trifluoromethyl-pyrimidine (2.0 g, 10.9 mmol) in dioxane (2.0 mL) is added. The resulting dark mixture is heated to 60-65° C. (oil bath temperature) for 40 min, allowed to cool to rt, quenched by addition of MeOH and concentrated in vacuo. The residue is purified twice by silica gel (200 g) column chromatography (CH2Cl2/MeOH, 99/1, then 98/2) to afford the title compound as a white solid: ES-MS: 256.0 [M+H]+; single peak at tR=6.35 min (System 2); Rf=0.33 (CH2Cl2/MeOH, 98/2).

reactant | 4-Amino-phenol | 10.9 mmol, 1.2 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | NaH | 12.0 mmol, 0.48 g, 1.1 equiv | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-chloro-6-trifluoromethyl-pyrimidine | 10.9 mmol, 2.0 g | ClC1=NC=NC(=C1)C(F)(F)F | C5H2ClF3N2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 4-(6-Trifluoromethyl-pyrimidin-4-yloxy)-phenylamine | FC(C1=CC(=NC=N1)OC1=CC=C(C=C1)N)(F)F | C11H8F3N3O
